US07786231B2
Preparation of 5-norbornene-2-allylacetate
DCPD (dicyclopentadiene, Aldrich, 248 ml, 1.852 mol), allylacetate (Aldrich, 500 mL, 4.63 mol) and hydroquinone (0.7 g, 0.006 mol) were charged into a 2 L high-pressure autoclave, and the temperature was raised to 190° C. The resulting mixture was reacted for 5 hours with stirring at 300 rpm. After the reaction was completed, the reaction mixture was cooled and transferred to a distilling apparatus. The reaction mixture was distilled twice under a reduced pressure (1 torr) using a vacuum pump to yield the title compound at 56° C. (yield: 30%, exo/endo=57/43).

reactant | DCPD | 1.852 mol, 248 ml | C1C=CC2C1[C@H]3C[C@@H]2C=C3 | C10H12
reactant | allylacetate | 4.63 mol, 500 mL | C(C=C)CC(=O)[O-]
reactant | hydroquinone | 0.006 mol, 0.7 g | C1(O)=CC=C(O)C=C1 | C6H6O2
product | 5-norbornene 2-allylacetate | yield: 30% | C12CCC(C=C1)C2.C(C=C)CC(=O)[O-] | InChI=1S/C7H10.C5H8O2/c1-2-7-4-3-6(1)5-7;1-2-3-4-5(6)7/h1-2,6-7H,3-5H2;2H,1,3-4H2,(H,6,7)/p-1
